US07498337B2
4-chloro-5-(2-fluoropyridin-3-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution (20 mL) of 4-chloro-5-(2-fluoropyridin-3-yl)-1H-pyrrole-3-carbaldehyde (270 mg) in tetrahydrofuran was added sodium hydride (60% in oil, 100 mg) at room temperature and the mixture was stirred for 30 min. 15-Crown-5 (530 mg) was added dropwise and the mixture was stirred for 30 min. 3-Pyridylsulfonyl chloride (321 mg) was added, and the mixture was further stirred for 1 hr. The reaction mixture was diluted with saturated brine, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→1:4), and crystallized from diethyl ether to give the title compound as colorless crystals (yield 358 mg, 81%).

reactant | 4-chloro-5-(2-fluoropyridin-3-yl)-1H-pyrrole-3-carbaldehyde | 20 mL, 270 mg | ClC=1C(=CNC1C=1C(=NC=CC1)F)C=O | C10H6ClFN2O
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 15-Crown-5 | 530 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 3-Pyridylsulfonyl chloride | 321 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-chloro-5-(2-fluoropyridin-3-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 358 mg, 81% | ClC=1C(=CN(C1C=1C(=NC=CC1)F)S(=O)(=O)C=1C=NC=CC1)C=O | C15H9ClFN3O3S
